US04013663
46.0 g of 1,2,3,4-tetrahydro-6-hydroxy-isoquinoline-hydrobromide are reacted with 85 ml of formamide for 1 hour at 140° C. with stirring. After cooling to 100° C., 216 ml of water are added, whereby the reaction product crystallizes. 34.0 g of 2-formyl-1,2,3,4-tetrahydro-6-hydroxy-isoquinoline are obtained. m.p. = 185.5° - 186° C. (ethanol).

reactant | 1,2,3,4-tetrahydro-6-hydroxy-isoquinoline-hydrobromide | 46.0 g | Br.OC=1C=C2CCNCC2=CC1
reactant | formamide | 85 ml | C(=O)N | CH3NO
solvent | water | 216 ml | O | H2O
product | 2-formyl-1,2,3,4-tetrahydro-6-hydroxy-isoquinoline | 34.0 g | C(=O)N1CC2=CC=C(C=C2CC1)O | C10H11NO2
